US04663344
Step A: Preparation of 2-(m-methylbenzylthio)-5-trifluoromethylbenzoic acid
A mixture of m-methylbenzylmercaptan (3.36 g, 24.3 mmol), sodium methoxide (1.31 g, 24.3 mmol) and N,N-dimethylformamide (12.5 ml) was cooled to -15° C., and then added dropwise with stirring to a solution of 4-chloro-3-cyanobenzotrifluoride (5.0 g, 2.43 mmol), in N,N-dimethylformamide (7.5 ml). After stirring for 1 hour at room temperature under a nitrogen atmosphere, the mixture was added to cold water (175 ml) and extracted with chloroform. The organic extract was dried (sodium sulfate) and evaporated to give a pale yellow oil, which was taken up in ethanol (10 ml) and 20% aqueous sodium hydroxide (45 ml) and heated at reflux temperature for 24 hours. Concentration of the reaction mixture followed by diethyl ether extraction and evaporation gave an orange-red oil, that was suspended in water and acidified with 6N hydrochloric acid. The solid that separated out was filtered and dried by suction. The solid was recrystallized from diethyl ether; yield 5.95 g (75%). The 60 MHz NMR spectrum in chloroform-d was in accord with the desired structure.

reactant | m-methylbenzylmercaptan | 24.3 mmol, 3.36 g | CC=1C=C(CS)C=CC1 | C8H10S
reactant | sodium methoxide | 24.3 mmol, 1.31 g | C[O-].[Na+]
reactant | 4-chloro-3-cyanobenzotrifluoride | 2.43 mmol, 5.0 g | ClC1=C(C=C(C=C1)C(F)(F)F)C#N | C8H3ClF3N
reactant | sodium hydroxide | 45 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | N,N-dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 175 ml | O | H2O
solvent | N,N-dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
product | 2-(m-methylbenzylthio)-5-trifluoromethylbenzoic acid | CC=1C=C(CSC2=C(C(=O)O)C=C(C=C2)C(F)(F)F)C=CC1 | C16H13F3O2S
